US07368578B2
To a solution (100 mL) of (1-ethyl-1H-imidazol-4-yl)methanol (5.80 g) in tetrahydrofuran was added thionyl chloride (14.59 g). The reaction mixture was heated under reflux for 1 hr and concentrated. Diethyl ether was added to the residue to allow crystallization, and the obtained crystals were collected by filtration, and washed with diethyl ether. The obtained crystals were recrystallized from methanol-tetrahydrofuran to give 4-chloromethyl-1-ethyl-1H-imidazole hydrochloride as colorless crystals (8.35 g, yield 100%).

reactant | (1-ethyl-1H-imidazol-4-yl)methanol | 100 mL, 5.80 g | C(C)N1C=NC(=C1)CO | C6H10N2O
reactant | thionyl chloride | 14.59 g | S(=O)(Cl)Cl | Cl2OS
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-chloromethyl-1-ethyl-1H-imidazole hydrochloride | 8.35 g, yield 100% | Cl.ClCC=1N=CN(C1)CC | InChI=1S/C6H9ClN2.ClH/c1-2-9-4-6(3-7)8-5-9;/h4-5H,2-3H2,1H3;1H
